US06034099
From the reaction of 3-pyridylhydrazine and ethylbutyrylacetate, 2,4-dihydro-5-propyl-2-(3-pyridyl)-3H-pyrazol-3-one is obtained. Subsequent reaction with 2-ethylaniline yields 4-(2-ethylanilinomethylene)-2,4-dihydro-5-propyl-2-(3-pyridyl)-3H-pyrazo 1-3-one, Mp 143.9° C.

reactant | 3-pyridylhydrazine | N1=CC(=CC=C1)NN | C5H7N3
reactant | ethylbutyrylacetate | C(C)CCCC(=O)CC(=O)[O-]
product | 2,4-dihydro-5-propyl-2-(3-pyridyl)-3H-pyrazol-3-one | C(CC)C=1CC(N(N1)C=1C=NC=CC1)=O | C11H13N3O
